US07528163B2
Step D: Ethyl [3-(2,2-dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]acetate
To a solution of 1.43 g (6-methoxy-1H-indazol-3-yl)-2,2-dimethylpropan-1-one from the Step C above in 45 mL anhydrous DMF was added 1.13 g ethyl bromoacetate and 2.41 g cesium carbonate. The mixture was stirred under nitrogen at room temperature for 2.5 days. It was diluted with ether and cold water with 15 mL 1 N HCl. The aqueous layer was separated and extracted with ether three times. The combined ether extract was washed with water (5×) and saturated brine, dried over anhydrous Na2SO4 and evaporated to give a crude product. It was purified by SGC with 20-40% EtOAc in hexanes to give title compound as solid. 1H NMR (CDCl3, 500 MHz) δ 8.27 (d, J=8.9 Hz, 1H), 6.985 (dd, J=2.1 & 8.9 Hz, 1H), 6.68 (d, J=2.0 Hz, 1H), 5.15 (s, 2H), 4.27 (q, J=7.1 Hz, 2H), 3.90 (s, 3H), 1.50 (s, 9H), 1.28 (t, J=7.1 Hz, 3H). LC-MS: 3.93 min. (m/Z=319.3).

reactant | (6-methoxy-1H-indazol-3-yl)-2,2-dimethylpropan-1-one | 1.43 g | COC1=CC=C2C(=NNC2=C1)C(C(C)(C)C)=O | C13H16N2O2
reactant | ethyl bromoacetate | 1.13 g | BrCC(=O)OCC | C4H7BrO2
reactant | cesium carbonate | 2.41 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | HCl | 1 N, 15 mL | Cl | ClH
product | Ethyl [3-(2,2-dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]acetate | CC(C(=O)C1=NN(C2=CC(=CC=C12)OC)CC(=O)OCC)(C)C | C17H22N2O4
